US06667345B2
2. 5-Chloro-2-methylsulfonylindan-1-one
0.5 g (2.35 mmol) of 5-chloro-2-methylsulfanylindan-1-one is dissolved in 10 ml of methanol; at 0° C., a solution of 4.33 g (7.05 mmol) of 2KHSO5×KHSO4×K2SO4 in 10 ml of water is added dropwise. The mixture is stirred at room temperature for 5 h; the methanol is distilled off and the aqueous residue is extracted with dichloromethane. The organic phase is separated off, dried over MgSO4, filtered and concentrated under reduced pressure. This gives 0.5 g of 5-chloro-2-methanesulfonylindan-1-one of melting point 197° C.

reactant | 5-chloro-2-methylsulfanylindan-1-one | 2.35 mmol, 0.5 g | ClC=1C=C2CC(C(C2=CC1)=O)SC | C10H9ClOS
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5-Chloro-2-methylsulfonylindan-1-one | ClC=1C=C2CC(C(C2=CC1)=O)S(=O)(=O)C | C10H9ClO3S
